US08557858B2
(E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide hydrobromide
To 0.21 g of (E)-N-(2-amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide in 4 ml THF a solution of 0.169 ml of 48%-HBr (169 μL, 1.5 mmol) in 4 ml THF was added dropwise. A solid separated, which was treated with diethylether. The resulting crystalline solid was separated and dried overnight. Yield: 287 mg (100%); MP: 200° C., sinter. The compound contained 1.86 HBr/Mol.

reactant | (E)-N-(2-amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide | 0.21 g | NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | C23H21N5O3S
reactant | HBr | 1.5 mmol, 169 μL | Br | BrH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide hydrobromide | Br.NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | InChI=1S/C23H21N5O3S.BrH/c1-27-16-19(14-25-27)18-7-9-20(10-8-18)32(30,31)28-13-12-17(15-28)6-11-23(29)26-22-5-3-2-4-21(22)24;/h2-16H,24H2,1H3,(H,26,29);1H/b11-6+;
